US04307102
(a) 5-Ethenyl-3-hydroxymethylene-4,4a,7,8-tetrahydro-4a-methyl-2(3H)-naphthalenone
A solution of 50.0 g (0.265 mol) of 5-ethenyl-4,4a,7,8-tetrahydro-4a-methyl-2(3H)-naphthalenone in 350 mL of tetrahydrofuran was cooled to -5° C. in an ice-methanol bath and stirred under nitrogen while 57.2 g (1.06 mol) of sodium methoxide was added. The resulting mixture was stirred for 30 min at -5° C. and then a solution of 114 mL (1.85 mol) of methyl formate in 100 mL of tetrahydrofuran was added slowly. The mixture was stirred overnight at room temperature and then poured onto a mixture of ice-water (1500 mL) and 6 N hydrochloric acid (265 mL). The product was extracted with ether and the combined extracts were washed with water. The dried extract was dried over anhydrous magnesium sulfate and concentrated in vacuo to afford an oil. This oil was triturated with hexane (4×250 mL) and the combined triturates were dried over magnesium sulfate and concentrated in vacuo to afford 55.37 g of a red oil, consisting essentially of the above-entitled compound as established by proton NMR (PMR) spectral data.

reactant | 5-ethenyl-4,4a,7,8-tetrahydro-4a-methyl-2(3H)-naphthalenone | 0.265 mol, 50.0 g | C(=C)C=1C2(CCC(C=C2CCC1)=O)C | C13H16O
reactant | sodium methoxide | 1.06 mol, 57.2 g | C[O-].[Na+]
reactant | methyl formate | 1.85 mol, 114 mL | C(=O)OC | C2H4O2
reactant | hydrochloric acid | 6 N, 265 mL | Cl | ClH
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-Ethenyl-3-hydroxymethylene-4,4a,7,8-tetrahydro-4a-methyl-2(3H)-naphthalenone | 55.37 g | C(=C)C=1C2(CC(C(C=C2CCC1)=O)=CO)C | C14H16O2
